US04971970
To 1-cyclopropyl-6-fluoro-7-(4-formyl-1-piperazinyl)-5-methyl-3-formyl-1,4-dihydro-4-oxoquinoline (1.2 g) is added 3N hydrochloric acid (15 ml) and the mixture is refluxed for 1 hour. After distilling off hydrochloric acid under reduced pressure, water is added to the resulting residue. The mixture is made weakly alkaline with saturated aqueous sodium hydrogen carbonate solution and extracted with chloroform. The chloroform layer is washed with water, dried over sodium sulfate, and the chloroform is distilled off under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent, chloroform → chloroform : methanol =50 : 1) and recrystallized from ethanol to give 1-cyclopropyl-6-fluoro-7-(1-piperazinyl)-5-methyl-3-formyl-1,4-dihydro-4oxoquinoline (0.57 g), as pale yellow powdery crystals, m.p. 21020 -213° C. (dec.).

reactant | 1-cyclopropyl-6-fluoro-7-(4-formyl-1-piperazinyl)-5-methyl-3-formyl-1,4-dihydro-4-oxoquinoline | 1.2 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CCN(CC1)C=O)F)C)=O)C=O | C19H20FN3O3
reactant | hydrochloric acid | 3N, 15 ml | Cl | ClH
product | 1-cyclopropyl-6-fluoro-7-(1-piperazinyl)-5-methyl-3-formyl-1,4-dihydro-4oxoquinoline | 0.57 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CCNCC1)F)C)=O)C=O | C18H20FN3O2
